US04786644
A solution of 12.30 g of 1,2-dihydro-4-hydroxy-N-(5-methyl-2-pyridyl)-1-phenyl-3-quinolinecarboxamide in 250 ml of chloroform was treated with 50.0 g of activated manganese dioxide and stirred at room temperature for two hours. The slurry was filtered and evaporated. Recrystallization of the residue from chloroform yielded 10.96 g (91%) of 1,4-dihydro-N-(5-methyl-2-pyridyl)-4-oxo-1-phenyl-3-quinolinecarboxamide, m.p. 248°-250° C.

reactant | 1,2-dihydro-4-hydroxy-N-(5-methyl-2-pyridyl)-1-phenyl-3-quinolinecarboxamide | 12.30 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=C(C=C1)C | C22H19N3O2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 50.0 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-N-(5-methyl-2-pyridyl)-4-oxo-1-phenyl-3-quinolinecarboxamide | 10.96 g, 91% | CC=1C=CC(=NC1)NC(=O)C1=CN(C2=CC=CC=C2C1=O)C1=CC=CC=C1 | C22H17N3O2
